US08378118B2
Step-IV: Preparation of 5-Methyl-indan-4-ol
To a suspension of 4-Hydroxy-5-methyl-indan-1-one (8 gm) in Methanol (80 ml), added 10% w/w Pd—C. Hydrogenation was carried out for 5 hours at 55-60° C. in an autoclave at 200-250 psi using Hydrogen gas. The reaction mixture was filtered through hyflow bed and filtrate was distilled under vacuum to give a 6.0 gm of desired product as white solid.

reactant | 4-Hydroxy-5-methyl-indan-1-one | 8 gm | OC1=C2CCC(C2=CC=C1C)=O | C10H10O2
reactant | Hydrogen | [H][H] | H2
solvent | Methanol | 80 ml | CO | CH4O
catalyst | Pd—C | [Pd] | Pd
product | 5-Methyl-indan-4-ol | 6.0 gm, Yield: 82.2% | CC1=C(C=2CCCC2C=C1)O | C10H12O
